US08008298B2
Oxalyl chloride (0.39 mL, 4.5 mmol) was added to a 0-5° C. solution of 5-cyano-2,2-dimethyl-pentanoic acid (0.462 g, 2.98 mmol) in 3 mL of dichloromethane, and the mixture was stirred for 3 h then concentrated to afford crude 5-cyano-2,2-dimethyl-pentanoyl chloride as a yellow oil, which was immediately used in the next step.

reactant | Oxalyl chloride | 4.5 mmol, 0.39 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-cyano-2,2-dimethyl-pentanoic acid | 2.98 mmol, 0.462 g | C(#N)CCCC(C(=O)O)(C)C | C8H13NO2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 5-cyano-2,2-dimethyl-pentanoyl chloride | C(#N)CCCC(C(=O)Cl)(C)C | C8H12ClNO
